US06610692B1
Step F: 5-Cyano-4-methyl-7-azaindoline
A stirred mixture of 5-bromo-4-methyl-7-azaindoline (270 mg, 1.27 mmol) and copper (I) cyanide (135 mg, 1.5 mmol) in DMF (0.3 mL) was heated to 180° C. for 4 h. The reaction mixture was cooled and partitioned between 5% potassium cyanide solution and ethyl acetate. The organic layer was dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash column chromatography (50% ethyl acetate/hexanes) to give the title compound:

reactant | 5-bromo-4-methyl-7-azaindoline | 1.27 mmol, 270 mg | BrC=1C(=C2CCNC2=NC1)C | C8H9BrN2
reactant | copper (I) cyanide | 1.5 mmol, 135 mg | [Cu]C#N
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | 5-Cyano-4-methyl-7-azaindoline | C(#N)C=1C(=C2CCNC2=NC1)C | C9H9N3
